US08440652B2
A solution of N-ethyl-2,N-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide (140 mg, 0.42 mmol), 6-(3-amino-6-bromopyrazin-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (150 mg, 0.38 mmol) Pd(PPh3)4 (13.2 mg, 0.011 mmol) and 2.0 M aq. Na2CO3 (0.38 mL) in n-butanol (2 mL) was microwave heated at 150° C. for 10 min to provide 4-(5-amino-6-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyrazin-2-yl)-N-ethyl-N,2-dimethylbenzenesulfonamide (49 mg, 29% yield) after purification by reverse phase preparatory HPLC. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.69 (s, 1H), 8.04 (s, 1H), 7.93-8.02 (m, 3H), 7.82 (d, J=8.28 Hz, 1H), 7.67-7.77 (m, 2H), 6.62 (s, 2H), 3.43 (td, J=6.40, 2.51 Hz, 2H), 3.18 (q, J=6.94 Hz, 3H), 3.00 (t, J=6.53 Hz, 2H), 2.76 (s, 3H), 2.59 (s, 3H), 1.08 (t, J=7.15 Hz, 3H). MS (EI) m/z: 452 [M+H]+. HPLC (Sunfire C18 4.6 mm×50 mm, 10-90% MeCN:10 mM aq NH4OAc, 4 min gradient) tR=2.14 min, 100% integrated area.

reactant | N-ethyl-2,N-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | 0.42 mmol, 140 mg | C(C)N(S(=O)(=O)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C | C16H26BNO4S
reactant | 6-(3-amino-6-bromopyrazin-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.38 mmol, 150 mg | NC=1C(=NC(=CN1)Br)C=1C=C2CCNC(C2=CC1)=O | C13H11BrN4O
reactant | Na2CO3 | 2.0 M, 0.38 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 4-(5-amino-6-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)pyrazin-2-yl)-N-ethyl-N,2-dimethylbenzenesulfonamide | 49 mg, 29% yield | NC=1N=CC(=NC1C=1C=C2CCNC(C2=CC1)=O)C1=CC(=C(C=C1)S(=O)(=O)N(C)CC)C | C23H25N5O3S
